US07981903B2
A mixture of {2-[3-(methyloxy)phenyl]ethyl}carbamate (30 g crude) and polyphosphoric acid (116 g) was maintained at 120-140° C. for 1 hr. After cooling to room temperature, water was added. The solution was adjusted to pH=9 with 6N sodium hydroxide and the organic products extracted with ethyl acetate. The combined organic layers were concentrated under reduced pressure and the residue was purified by column chromatography to afford 6-(methyloxy)-3,4-dihydro-1(2H)-isoquinolinone (10 g, 40%). 1H NMR(CDCl3) δ 8.0 (1H), 6.85 (1H), 6.7 (1H), 6.35 (1H), 3.85 (3H), 3.55 (2H), 2.95 (2H).

reactant | {2-[3-(methyloxy)phenyl]ethyl}carbamate | 30 g | COC=1C=C(C=CC1)CCNC([O-])=O
reactant | sodium hydroxide | 6N | [OH-].[Na+]
solvent | water | O | H2O
product | 6-(methyloxy)-3,4-dihydro-1(2H)-isoquinolinone | 10 g, 40% | COC=1C=C2CCNC(C2=CC1)=O | C10H11NO2
